US05281626
N-Methyl-N-[2-(6-methyl-2-pyridyl)ethyl]amine (14.66 g, 97.7 mmol) was added to a suspension of the 4-(N-acetyl-N-methylamino)benzenesulfonyl chloride (24.2 g, 97.3 mmol) prepared in Preparative Example 12 and sodium acetate (24.0 g) in ethanol (140 ml). The obtained mixture was stirred at room temperature overnight, followed by the addition of water. The obtained mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of common salt, dried over magnesium sulfate, and concentrated to give N-[2-(6-methyl-2-pyridyl)ethyl]-4-(N-acetyl-N-methylamino)benzenesulfonamide as a colorless oil. This oil was dissolved in 4N aqueous hydrochloric acid. The solution was heated under reflux for 2 hours. The pH of the mixture was adjusted to about 8 by the addition of an aqueous solution of sodium hydrogencarbonate. The resulting mixture was extracted with ethyl acetate. The organic layer was washed with water and a saturated aqueous solution of common salt, dried over magnesium sulfate, and concentrated to give an oily residue. This residue was purified by flash column chromatography (chloroform/methanol/aqueous ammonia=97:3:0.3) to give the title compound as a light brown oil (25.8 g, overall yield of two steps: 83%).

reactant | N-Methyl-N-[2-(6-methyl-2-pyridyl)ethyl]amine | 97.7 mmol, 14.66 g | CNCCC1=NC(=CC=C1)C | C9H14N2
reactant | 4-(N-acetyl-N-methylamino)benzenesulfonyl chloride | 97.3 mmol, 24.2 g | C(C)(=O)N(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H10ClNO3S
reactant | sodium acetate | 24.0 g | C(C)(=O)[O-].[Na+]
reactant | water | O | H2O
solvent | ethanol | 140 ml | C(C)O | C2H6O
product | N-[2-(6-methyl-2-pyridyl)ethyl]-4-(N-acetyl-N-methylamino)benzenesulfonamide | CC1=CC=CC(=N1)CCNS(=O)(=O)C1=CC=C(C=C1)N(C)C(C)=O | C17H21N3O3S
